US04859460
Methyl 2-chloracetamidoacrylate/N-acryloamidomethyl 2-oxopyrrolidine copolymer
93.8 g of methyl 2-chloracetamidoacrylate, 31.2 g of N-acrylamidomethyl-2-oxopyrrolidine, 3.5 l. of methanol and 50 g of a 33% hydrogen peroxide solution are placed in a 4 l. photochemical reactor equipped with a 2000 W type Q 2020 original Hanau-type lamp. The solution is heated to 50° C. and irradiated for 6 hours. The reaction mixture is then filtered and the solution is concentrated to 400 g and poured into 5 l. of ethyl ether. The resulting 93 g of polymer is then dried. The water-soluble fraction is extracted with 1.8 l. of water at 50° C. 68 g of water-soluble polymer are obtained.

reactant | methyl 2-chloracetamidoacrylate | 93.8 g | ClCC(=O)NC(C(=O)OC)=C | C6H8ClNO3
reactant | N-acrylamidomethyl-2-oxopyrrolidine | 31.2 g | C(C=C)(=O)NCN1C(CCC1)=O | C8H12N2O2
reactant | hydrogen peroxide | OO | H2O2
solvent | methanol | CO | CH4O
product | Methyl 2-chloracetamidoacrylate N-acryloamidomethyl 2-oxopyrrolidine | ClCC(=O)NC(C(=O)OC)=C.C(C=C)(=O)NCN1C(CCC1)=O | InChI=1S/C8H12N2O2.C6H8ClNO3/c1-2-7(11)9-6-10-5-3-4-8(10)12;1-4(6(10)11-2)8-5(9)3-7/h2H,1,3-6H2,(H,9,11);1,3H2,2H3,(H,8,9)
